US04851425
1-Phenyl-1,4,5,6-tetrahydro-3-cyclopentapyrazolyl methoxy acetic acid (Formula XX, m=1, M1 =H, w=1) Refer to Chart E.
A solution of 1-phenyl-1,4,5,6-tetrahydro-3-cyclopentapyrazolemethanol (2.14 g, 10 mmol) in THF (40 ml) was cooled to -10° C. and treated with 1.6M n-butyl lithium (6.2 ml, 10 mmol) using bipyridyl indicator. After 20 minutes, ethyl bromoacetate (1.9 g, 1.26 ml, 11.4 mmol) was added, reached at -20° C. for 45 minutes, then at ambient temperature for 18 hours. The solution was poured into ice water, acidified, and the products extracted into ethyl acetate. Drying and evaporation of solvent gave a residue containing unreacted methanol starting material. The residue was soaponified in methanol (150 ml) with 2N sodium hydroxide (25 ml) for 2 hours. The solution was concentrated to 50 ml, diluted to 300 ml with water, and neutral products extracted into ethyl acetate. The alkaline solution was acidified and extracted with ethyl acetate to yield crude title compound. Purification on CC-4 silica gel (100 g) with 1:1 ethyl acetate-Skelly B eluent gave pure title compound. Crystallization from ethyl acetate provided title compound (0.50 g), m.p. 106°-107° C.

reactant | 1-phenyl-1,4,5,6-tetrahydro-3-cyclopentapyrazolemethanol | 10 mmol, 2.14 g | C1(=CC=CC=C1)N1N=C(C2=C1CCC2)CO | C13H14N2O
reactant | n-butyl lithium | 10 mmol, 1.6M, 6.2 ml | C(CCC)[Li]
reactant | bipyridyl | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | ethyl bromoacetate | 11.4 mmol, 1.26 ml, 1.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
product | 1-Phenyl-1,4,5,6-tetrahydro-3-cyclopentapyrazolyl methoxy acetic acid | C1(=CC=CC=C1)N1N=C(C2=C1CCC2)C(C(=O)O)OC | C15H16N2O3
